US05859255
A solution containing 4-chloro-7-trifluoromethyl-quinoline (1.0 g, 4.3 mmol) and iodine (1.1 g, 4.3 mmol in CF2ClCFCl2 (30 ml) was placed in a fluorination apparatus fitted with a drying tube filled with soda lime. Elemental fluorine (5 mmol) as a 10% mixture in dry nitrogen was then passed through the stirred solution using narrow bore PTFE tubing at ca. 15 ml/min. After the fluorine had been added the solution was poured into 10% aqueous sodium metablsuifite solution (30 ml), neutralised with solid sodium bicarbonate and extracted with dichloromethane. The organic extracts were dried and evaporated to a yellow solid (1.09 g). GC/MS analysis showed a 5% conversion of starting material. Column chromatography on silica gel with dichloromethane as eluant gave 2-fluoro-4-chloro-7-trifluoromethyl-quinoline (0.05 g, 86%); m.p. 94°-95° C. (vacuum sublimation oil bath temp. 50° C./<1 mmHg) as white needles; RF 0.69 (CH2Cl2); (Found C, 47.7; H, 1.3; N, 5.5. C10H4NCIF4 requires; C, 48.1; H, 1.6; N, 5.6%); δH (400 MHz, CDCl3, Me4Si) 7.32 ppm (1H, d, JH,F 2.4, H-3), 7.79 (1H, d d, JH5,H6 8.8, JH6,H8 1.6, H-6), 8.23 (1H, m, H-8), 8.32 (1H, d, JH5,H6 8.8, H-5); δC (50 MHz, CDCl3, Me4Si) 112.3 ppm (d, 2JCF 45.5, C-2), 122.9 (m, C-6), 123,4 (q, 1JCF 272.7, CF3), 125.6 (s, C-5), 126.2 (m, C-8), 126.7 (s, C-4a), 133.4 (q, 2JCF 33.2, C-7), 145.2 (d, 3JCF 18.7, C-8a), 146.7 (d, 3JCF 12.9, C-4), 160.9 (d, 1JCF 245.3, C-2); δF (235 MHz, CDCl3, CFCl3) -55.0 ppm (1F, s, F-2), -59.2 (3F, s, CF3); m/z (E1+) 249 (M+, 100%), 251 (M+, 33), 230 (26), 214 (18), 201 (11), 199 (33), 194 (12), 145(26), 99 (19).

reactant | 4-chloro-7-trifluoromethyl-quinoline | 4.3 mmol, 1.0 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | iodine | II | I2
reactant | fluorine | 5 mmol | FF | F2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sodium | 30 ml | [Na] | Na
product | 2-fluoro-4-chloro-7-trifluoromethyl-quinoline | 0.05 g, 86% | FC1=NC2=CC(=CC=C2C(=C1)Cl)C(F)(F)F | C10H4ClF4N
